US09168254B2
N4-(4-([1,2,4]Triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine was synthesized from 1-(4-((4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)amino)quinazolin-6-yl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea (322 g) in THF (3 L) at 0° C. Water (10 L) was added, and the solution was allowed to stir for 1 hour, at which point the material oiled out. The organics were then extracted into ethyl acetate (3×5000 mL), combined and washed with water (2×5000 mL) and brine (2×5000 mL). The organics were dried by rotoevaporation, and the material was concentrated to an oil. The oil was observed to solidify at room temperature to yield Form E.

reactant | 1-(4-((4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)amino)quinazolin-6-yl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea | 322 g | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)NC(=S)NC(CO)(C)C)C | C26H26N8O2S
reactant | Water | 10 L | O | H2O
solvent | THF | 3 L | C1CCOC1 | C4H8O
product | N4-(4-([1,2,4]Triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)NC=2OCC(N2)(C)C)C | C26H24N8O2
